US05453542
Concentrated aqueous HCl (5 mL) is added to a slurry of aniline (1.88 g, 0.02 mol) in water (15 mL). The resultant anilinium hydrochloride is cooled to 0° C. and an aqueous solution of sodium nitrite (1.38 g, 0.02 mol in 5 mL water) is added thereto. The resultant phenyldiazonium chloride is combined with resorcinol (1.1 g, 0.01 mol), diluted to approximately 40 mL total volume with methanol, and slowly added to a -25° C. solution of sodium hydroxide (3 g) in methanol (120 mL). The total volume of the reaction medium is 160 mL, which also contains 12% water, a 2% load of theoretical product, and a 0.7% load of resorcinol. When the addition is complete, the methanol is removed by rotary evaporation, about 100 mL of water is added, and the remaining aqueous slurry is filtered through a celite plug. Concentrated HCl is added to the filtrate (to below pH 3) and the precipitate is filtered to give crude 4,6-bisphenylazoresorcinol (3 g) as a red solid. The material is recrystallized from chloroform/ethanol (40 mL/10 mL) to give pure 4,6-bisphenylazoresorcinol as red needles (2.35 g, 73%).

reactant | HCl | 5 mL | Cl | ClH
reactant | aniline | 0.02 mol, 1.88 g | NC1=CC=CC=C1 | C6H7N
reactant | anilinium hydrochloride | Cl.[NH3+]C1=CC=CC=C1
reactant | sodium nitrite | 0.02 mol, 5 mL, 1.38 g | N(=O)[O-].[Na+]
reactant | phenyldiazonium chloride | [Cl-].C1(=CC=CC=C1)[N+]#N
reactant | resorcinol | 0.01 mol, 1.1 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | sodium hydroxide | 3 g | [OH-].[Na+]
solvent | water | 15 mL | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 120 mL | CO | CH4O
product | 4,6-bisphenylazoresorcinol | 2.35 g, 73% | C1(=CC=CC=C1)C1=C(C(=C(O)C(=C1)C1=CC=CC=C1)N=NC1=C(O)C=CC=C1O)O | C24H18N2O4
